US09029421B2
Step 1. Preparation of (R)—N-benzyl-N-(1-methyl-2-p-methoxyphenylethyl)amine hydrochloride Preparation-1
4-Methoxy phenyl acetone (50 kg, 0.305 M), sodium acetate trihydrate (62 kg, 0.455 M) were charged in to the reactor containing acetic acid (170 kg,) and methanol (160 lit). The reaction mass was chilled to 0-5° C. Benzylamine (36 kg, 0.336 M) was added slowly into the reactor maintaining temperature between 0-5° C. After stirring for two hours at 0-5° C., the reaction mass was treated with sodium borohydride (25 kg, 0.657 M) maintaining temperature below 10° C. and was stirred further for 2 hours. The reaction mass was diluted with water (500 lit) and treated with a solution of sodium hydroxide (70 kg sodium hydroxide in 150 lit water) below 30° C. The reaction mass was extracted with methylene chloride twice (200 lit), washed with water and concentrated under reduced pressure. The residue obtained was dissolved in ethyl acetate (200 lit), cooled to 10-15° C. and the pH of reaction mass was adjusted to 1-2 with IPA+HCl. The solids were isolated by filtration, dried to yield title compound as hydrochloride salt. (50 Kg, 56.5%)

reactant | 4-Methoxy phenyl acetone | 0.305 M, 50 kg | COC1=CC=C(C=C1)CC(C)=O | C10H12O2
reactant | sodium acetate trihydrate | 0.455 M, 62 kg | O.O.O.C(C)(=O)[O-].[Na+]
reactant | Benzylamine | 0.336 M, 36 kg | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium borohydride | 0.657 M, 25 kg | [BH4-].[Na+]
reactant | sodium hydroxide | 70 kg | [OH-].[Na+]
reactant | IPA HCl | CC(C)O.Cl
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
solvent | acetic acid | 170 kg | C(C)(=O)O | C2H4O2
product | (R)—N-benzyl-N-(1-methyl-2-p-methoxyphenylethyl)amine hydrochloride | Cl.C(C1=CC=CC=C1)N[C@@H](CC1=CC=C(C=C1)OC)C | InChI=1S/C17H21NO.ClH/c1-14(18-13-16-6-4-3-5-7-16)12-15-8-10-17(19-2)11-9-15;/h3-11,14,18H,12-13H2,1-2H3;1H/t14-;/m1./s1
